Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2].[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][H:11]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][H:11],-5.89070615
[H:14].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.60544660681
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13]>>[C:5]([H:6])([H:7])=[C:8][O:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])=[O:4],-0.819805371239
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:10].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:11]([H:12])[H:13],1.88125558546
[H:1].[O:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10]>>[H:1][O:2][C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10],-1.74700390588
[H:1][C:2][C:3](=[C:4][H:5])[C:8]([H:9])([H:10])[O:11][H:12].[O:6][H:7]>>[H:1][C:2]/[C:3](=[C:4](/[H:5])[O:6][H:7])[C:8]([H:9])([H:10])[O:11][H:12],-6.008147978180001
[H:11].[H:1][O:2][C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-2.15973460762
[H:1][O:2][C@:3]1([H:4])[C:5]([H:6])([H:7])[C@@:8]1([H:9])[C:10]=[C:11]([H:12])[H:13]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13],0.0318669063799
[C:1][C:2][O:3].[C:4]([H:5])#[C:6][C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[H:10],1.40850739365
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][C:12]([H:13])([H:14])[H:15]>>[C:4]([H:5])([H:6])=[C:7]([H:8])[H:9].[H:1][C:2]([H:3])[C:10]#[C:11][C:12]([H:13])([H:14])[H:15],0.7082724754
[C:6](#[C:7][C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.21638327555
[O:1]=[C:2][O:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:9].[O:1]=[C:2][O:3][C@:4]([H:5])([C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[H:13],4.60480095331
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[H:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-4.94892929076
[H:1][C:2]([H:3])([H:4])[C:5]#[C:6].[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-5.03888902085
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7][C:9]([O:8])([H:10])[H:11]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]1[O:8][C:9]1([H:10])[H:11],-1.82403434612
[O:1][O:2][C:3][C:4]1[C:5]([H:6])([H:7])[C:8]1([H:9])[H:10]>>[O:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10],0.97461771304
[C:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-0.98524272546
[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])[H:14]>>[H:1][C:2]=[C:3]([H:4])[C:5]([O:7][C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14].[H:6],1.3364844706
[O:1]=[C:2]([H:3])/[C:4](=[C:5](\[H:6])[C:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:7][H:8].[O:1]=[C:2]([H:3])[C:4](=[C:5][H:6])[C:9]([H:10])([H:11])[H:12],5.89222529655
[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[H:15],1.7989856432599998
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]#[C:7][H:8]>>[C:3]([H:4])[O:5][C:6]#[C:7][H:8].[H:1][C:2],7.66125758646
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10][O:11][H:12]>>[C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10][O:11][H:12].[H:1][C:2],4.8052415260400005
[H:1]/[C:2](=[C:3]\[O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[H:8],1.84585490911
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][H:10],7.2339656263600025
[C:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[C:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10],2.33124105673
[H:1][O:2][C:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9]>>[C:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9].[H:1][O:2],5.75521822858
[C:1]#[C:2].[C:3][O:4][C:5]#[C:6][H:7]>>[C:1]#[C:2][C:3][O:4][C:5]#[C:6][H:7],-6.222935955730001
[H:1][O:2]/[C:3]([C:4]([H:5])[C:6]([H:7])([H:8])[H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4]([H:5])[C:6]([H:7])([H:8])[H:9].[H:1][O:2]/[C:3]=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],5.9413062898
[H:1][C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])([H:5])([C:6][H:7])[H:13].[H:1][C:2][C:8]([H:9])([C:10][H:11])[H:12],8.44580539115
